US07498339B2
Step 2: 1′-Benzyl-3H-spiro[2-benzofuran-1,4′-piperidine]
Crude 1-benzyl-4-(2-hydroxymethyl-phenyl)-piperidin-4-ol (180 g, 0.605 mol) was dissolved in THF (1000 mL). Triethylamine (176.18 mL, 1.27 mol) was added. A solution of methanesulfonyl chloride (33.03 mL, 0.424 mol) in THF (100 mL) was added slowly which caused an increase of the temperature from ambient to 53° C. The reaction was then refluxed for 4 h. Water (500 mL) and AcOEt (500 mL) were added to the reaction mixture. The organic phase was separated, dried and evaporated to give a brown oil (160 g).The crude product was purified by chromatography on silica gel with heptane/AcOEt 100:0 to 60:40 to give a light yellow solid (120 g, 71%). MS: m/z=280 [M+H]+.

reactant | 1-benzyl-4-(2-hydroxymethyl-phenyl)-piperidin-4-ol | 0.605 mol, 180 g | C(C1=CC=CC=C1)N1CCC(CC1)(O)C1=C(C=CC=C1)CO | C19H23NO2
reactant | Triethylamine | 1.27 mol, 176.18 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.424 mol, 33.03 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | Water | 500 mL | O | H2O
solvent | THF | 1000 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | AcOEt | 500 mL | CCOC(=O)C | C4H8O2
product | 1′-Benzyl-3H-spiro[2-benzofuran-1,4′-piperidine] | 160 g | C(C1=CC=CC=C1)N1CCC2(CC1)OCC1=C2C=CC=C1 | C19H21NO
